US06576645B1
(E)-4-(4-Chlorophenyl)-3-phenyl-4-(4-{2-[2-(tetrahydropyranyloxy)ethoxy]ethoxy}phenyl)but-3-en-1-ol
NaH (0.09 g, 2.69 mmol) is mixed with dimethylformamide (DMF) (30 ml). (E)-4-(4-Chlorophenyl)-4-(4-hydroxyphenyl)-3-phenylbut-3-en-1-ol is dissolved in the solution and the mixture is heated to 60° C. and stirred for half an hour. 2-[(2-(Tetrahydropyranyloxy)ethoxy]ethyl chloride (0.83 g, 4.03 mmol) dissolved in DMF (5 ml) is added to the solution and heating is continued for 3 hours. Saturated aqueous ammonium chloride solution (30 ml) and toluene (30 ml) is added to the cooled reaction mixture and stirring is continued for 10 minutes. Layers are separated and aqueous layer is extracted with toluene (30 ml). Toluene phases are combined and washed with 2 N aqueous sodium hydroxide and three times with water. Organic phase is dried and evaporated to dryness. Yield 1.4 g, 99%.

reactant | NaH | 2.69 mmol, 0.09 g | [H-].[Na+]
reactant | (E)-4-(4-Chlorophenyl)-4-(4-hydroxyphenyl)-3-phenylbut-3-en-1-ol | ClC1=CC=C(C=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)O | C22H19ClO2
reactant | (2-(Tetrahydropyranyloxy)ethoxy]ethyl chloride | 4.03 mmol, 0.83 g | O1C(CCCC1)OCCOCCCl | C9H17ClO3
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(4-Chlorophenyl)-3-phenyl-4-(4-{2-[2-(tetrahydropyranyloxy)ethoxy]ethoxy}phenyl)but-3-en-1-ol | ClC1=CC=C(C=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCOCCOC1OCCCC1 | C31H35ClO5
